US07034029B2
Preparation of 4-(4-Benzylpiperazin-1-yl)-1H-indazole
A stirred solution of 4-benzyl-1-(3-fluoro-2-carboxyphenyl)-piperazine (5.96 g, 20.0 mmol) in dimethylsulfoxide (10 mL) and hydrazine (10 mL) is heated at 95° C. under nitrogen for 4 days. The cooled reaction is diluted with ether and washed with a mixture of water and saturated aqueous sodium bicarbonate. The organic layer is further washed sequentially with water and brine dried over MgSO4 and concentrated in vacuo to give a residue. The residue is chromatographed using ethyl acetate as the eluant. The resulting oil is reconcentrated from ether to give a white foam which is stirred under hexanes/ether overnight. The resulting white powder is isolated by suction filtration and washed with hexane to give the title compound 3.11 g, (53% yield), identified by HNMR.

reactant | 4-benzyl-1-(3-fluoro-2-carboxyphenyl)-piperazine | 20.0 mmol, 5.96 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C(=CC=C1)F)C(=O)O | C18H19FN2O2
reactant | hydrazine | 10 mL | NN | H4N2
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | ether | CCOCC | C4H10O
product | 4-(4-Benzylpiperazin-1-yl)-1H-indazole | 3.11 g, 53% yield | C(C1=CC=CC=C1)N1CCN(CC1)C1=C2C=NNC2=CC=C1 | C18H20N4
